US05495020
To 2,3,6-trifluoro-4-methyl-5-nitrotoluene (1.9 g) are added 2-methoxyethanol (9.9 ml), water (1.1 ml), N-methylpiperazine (4.1 ml) and triethylamine (5.2 ml) and the mixture is refluxed for 25 hours. After the reaction is completed, water is added and the resultant is extracted with diethyl ether, and the extract is washed with water and dried. The solvent is distilled off under reduced pressure and the residue is purified by silica-gel column-chromatography (dichloromethane : methanol=40 : 1) to give 2-(4-methyl-1-piperazinyl)-3,6-difluoro-4-methyl-5 -nitrotoluene (1.73 g).

reactant | 2,3,6-trifluoro-4-methyl-5-nitrotoluene | 1.9 g | FC1=C(C(=C(C(=C1F)C)[N+](=O)[O-])F)C | C8H6F3NO2
reactant | 2-methoxyethanol | 9.9 ml | COCCO | C3H8O2
reactant | N-methylpiperazine | 4.1 ml | CN1CCNCC1 | C5H12N2
solvent | water | O | H2O
solvent | triethylamine | 5.2 ml | C(C)N(CC)CC | C6H15N
solvent | water | 1.1 ml | O | H2O
product | 2-(4-methyl-1-piperazinyl)-3,6-difluoro-4-methyl-5 -nitrotoluene | 1.73 g | CN1CCN(CC1)C1=C(C(=C(C(=C1F)C)[N+](=O)[O-])F)C | C13H17F2N3O2
